US03983243
To a solution containing 223.9 g. of 3,7,10,11-tetramethyl-1,6,10-dodecatrien-3-ol in 570 ml. of hexane and 22.2 ml. of pyridine there was added dropwise at -7°C. over a period of two hours, 112 g. of phosphorous tribromide in 125 ml. of hexane. The resulting mixture was stirred for 30 minutes. After this, the reaction mixture was poured onto ice water and the reaction mixture was allowed to stand under constant stirring for 30 minutes. After 30 minutes, the reaction mixture was diluted with 1,000 ml. of hexane and the water layer was separated and the hexane layer was washed with water, aqueous sodium bicarbonate and finally with water. After washing, the hexane solution was dried over sodium sulfate and evaporated. There resulted 1-bromo-3,7,10,11-tetramethyl-2,6,10-dodecatriene.

reactant | 3,7,10,11-tetramethyl-1,6,10-dodecatrien-3-ol | CC(C=C)(CCC=C(CCC(=C(C)C)C)C)O | C16H28O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosphorous tribromide | P(Br)(Br)Br | Br3P
solvent | hexane | CCCCCC | C6H14
product | 1-bromo-3,7,10,11-tetramethyl-2,6,10-dodecatriene | BrCC=C(CCC=C(CCC(=C(C)C)C)C)C | C16H27Br
